US05196610
A solution of 3-benzylbenzyl alcohol (1.98 g) in diethyl ether (60 cm3) was cooled in an ice bath, and 1,1,2,2-tetrachloro-1,2-dibromoethane (3.90 g) added. When the addition was complete, triphenyl phosphine (3.14 g) was added to the cooled mixture. The reaction mixture was stirred for 10 minutes, then filtered and the solvent evaporated under reduced pressure. The resultant yellow oil was purified by column chromatography on a silica gel support, eluting with petroleum ether (boiling range 60°-80° C.) containing 10% by volume diethyl ether, to give 3-benzylbenzyl bromide (2.62 g).

reactant | 3-benzylbenzyl alcohol | 1.98 g | C(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C14H14O
reactant | 1,1,2,2-tetrachloro-1,2-dibromoethane | 3.90 g | ClC(C(Br)(Cl)Cl)(Br)Cl | C2Br2Cl4
reactant | triphenyl phosphine | 3.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | diethyl ether | 60 cm3 | C(C)OCC | C4H10O
product | 3-benzylbenzyl bromide | 2.62 g | C(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C14H13Br
